Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Azithromycin
 
Attending: ___.
 
Chief Complaint:
Intractable vommiting 
 
Major Surgical or Invasive Procedure:
___ Colonoscopy with ileocolic dilitation.
___ Laparotomy with enterocolostomy

 
History of Present Illness:
Mr ___ is a ___ with a history of bowel obstruction in setting 
of metastatic colon cancer s/p multiple surgeries including 
palliative partial colon resection (___), hemicolectomy with 
end to end ileocolostomy (___), and duodenal and ureteral 
stenting (___) now presenting from OSH with 48 hrs of
intractable nausea, vomiting, and abdominal pain. He reports 
vomiting a total of 14 times and describes contents as bilious 
or undigested food (if recently eaten). Pt is currently 
undergoing chemotherapy (C1D4 of irinotecan, last dose on ___, 
for which he takes zofran for expected nausea, but he was unable 
to keep meds down. Denies hematochezia, fever, chills. Last meal 
before symptoms began consisted of chicken; no new or uncooked 
foods.Abdominal pain is concentrated in the periumbilical area 
and relieved with emesis. Last BM was this morning and was 
rather small consisting of a few drops (after beginning chemo, 
pt has had constant diarrhea). Last time pt passed gas was 
during BM in
AM. Since then, pt denies passing any gas. OSH's KUB revealed 
air/fluid levels consistent with obstruction. 
 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
grandfather w/ colon cancer around ___ year old
 
Physical Exam:
VS:Tmax: 99 T: 98.5 HR 113 BP:136/84 RR:20 SpO2: 100% RA
Gen:NAD. Patient is lying comfortably in bed.
Resp:CTAB, good air movement
CV: Tachycardic. Normal S1 and S2. No m/r/g
Abd: There is an well healed older midline vertical incision 
site. To the left of the old incision is the recent vertical 
incision site intact with staples. There is are no signs of 
infection around the recent incision. Abdomen is minimally 
tender to palpation. Normoactive bowel sounds. Nondistended. No 
rebound tenderness. No palpable masses.
Ext: No c/c/e
 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.5 RBC-4.12* Hgb-10.4* Hct-31.8* 
MCV-77* MCH-25.4* MCHC-32.9 RDW-17.5* Plt ___
___ 06:30AM BLOOD Plt ___
___ 05:59AM BLOOD Glucose-86 UreaN-11 Creat-0.8 Na-139 
K-4.0 Cl-106 HCO3-25 AnGap-12
___ 05:59AM BLOOD Calcium-9.0 Phos-5.1* Mg-1.5*

___ 10:35PM-CT scan- Interval progression of the 
small-bowel obstruction with small bowel loops now dilated up to 
5.3 from previously 4.1 cm  (___). 2.  Large 
contiguous tumor mass extending from the duodenum into the 
rightlower quadrant causing small-bowel obstruction by encasing 
a right lower quadrant small bowel loop and extending anteriorly 
into the rectus muscle(L>R), umbilicus and linea ___, and 
peritoneum, unchanged since ___. 4.  There is no free 
fluid and no free air. 5. Mild-to-moderate right hydronephrosis, 
progressed since ___. 6. Splenomegaly measuring 14 cm. 
 

 
Brief Hospital Course:
The patient was admitted on ___ to the General Surgical 
Service for evaluation and treatment of his small bowel 
obstruction. Patient was initially managed conservatively with 
bowel rest. He had a nasogastric tube inserted and was NPO/ IV 
fluids with antiemetics for nausea. On ___ the patient had a 
colonoscopy performed along with dilitation of the ileocolonic 
anastamosis. Following the procedure the patient continued to be 
NPO and on IV fluids. Over the course of the next few days the 
patient had episodes of emesis of both "feculent material" and 
bilious material. A repeat CT scan on ___ showed progression 
of the small bowel obstruction with dilatation of the small 
bowel loops up to 5.3 cm from the previous 4.1 cm. The patient 
had a PICC line inserted and was started on TPN. On ___ he 
was taken to the operating room for an intestinal bypass. The 
operation went well without complication. Please refer to the 
Operative Note for details. After a brief, uneventful stay in 
the PACU, the patient arrived on the floor NPO, on IV fluids, 
with a foley catheter, and an epidural and PCA for pain control. 
 The patient was hemodynamically stable.His hospital course 
following the jejunocolostomy is described below:

Neuro: The patient received an epidural and pca with good effect 
and adequate pain control.  When tolerating oral intake, the 
patient was transitioned to oral pain medications. The patient 
complained of pain with several pain medication regimens. His 
pain was well controlled with Methadone PO 10 mg q 8 hours and 
methadone IV 10 mg every 8 hours. The patient was discharged on 
this regimen and advised not to take any of his home 
narcotics(morphine), sedatives, or alcohol with this medication. 
The patient was neurologically stable during this admission.
CV: Following the operation the patient had episodes of sinus 
tachycardia with heart rates as high as 130-140's. Patient was 
asymptomatic and continued to produce good urine output. Over 
the following days the patient's tachcardia improved and fell to 
the low 100's  and high 90's. He was started on metoprolol 25 mg 
bid and was discharged on this medication. Patient was 
hypertensive throughout this hospital admission with blood 
pressures as elevated as high 160's/ high 80's. He does have a 
past medical history of hypertension. Vital signs were routinely 
monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI/GU/FEN: Post-operatively, the patient was made NPO/TPN/IV 
fluids. The patient tolerated the TPN well and as his bowel 
function returned his diet was advanced appropriately. Patient's 
intake and output were closely monitored, and IV fluid was 
adjusted when necessary.  Electrolytes were routinely followed, 
and repleted when necessary. Given that he was experiening 
frequent bowel movements of 5 loose bowel movements per day, he 
was restarted on Lomotil 1 tablet every 4 hours as needed for 
diarrhea with a goal of no more than 2 bowel movements per day. 
Patient had his indwelling foley removed on post-op day 4 when 
his epidural was removed. Patient had no difficulty voiding 
afterwards. Patient was transitioned to a regular diet and was 
taken off TPN. He had no issues tolerating the regular diet. 
ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. Wound was routinely 
monitored and showed no signs of infection.
Endocrine: The patient's blood sugar was monitored throughout 
his stay;
Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.
Prophylaxis: The patient received subcutaneous heparin;He was 
encouraged to get up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. He was discharged with 
nursing for ___ care with the understanding that his PICC would 
likely be removed on ___ in his followup visit with Dr. 
___. He received 1 B12 injection while in house and was 
advised that he would need these injections monthly as an 
outpatient. Patient was instructed that his narcotic regimen and 
metoprolol would be adjusted with his PCP or oncologist on the 
follow-up visit. His oncologist was verbally informed about the 
plan and agreed to manage his narcotics on an outpatient basis.
 
Medications on Admission:
Diphenoxylate-Atropine 2.5-.025 PRN, Esomeprazole 40 qday, 
Lorazepam 0.5 q8h PRN, Morphine 15 PRN,
Ondansetron 8 PRN, Zolpidem 5 PRN, Docusate sodium 100 PRN,
Sennosides 8.6 PRN 
 
Discharge Medications:
1. Diphenoxylate-Atropine 1 TAB PO Q4H diarrhea 
Please stop if patient is experiencing constipation. 
2. Methadone 10 mg PO Q8H 
RX *methadone 10 mg 10 mg by mouth every 8 hours Disp #*54 
Tablet Refills:*0
3. Metoprolol Tartrate 25 mg PO BID 
Please hold medication if heart rate is less than 60 or blood 
pressure less than 100. 
RX *metoprolol tartrate 25 mg 1 Tablet(s) by mouth every 12 
hours Disp #*36 Tablet Refills:*0
4. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 Tablet(s) by mouth three times a day 
Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bowel obstruction- malignant
Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted for management of a bowel obstruction. During 
your hospitalization you first underwent a colonoscopy with 
ileocolic dilitation. You continued to experience emesis( 
vommiting) and a repeat CT scan showed continuing bowel 
obstruction. You then underwent a jejunocolostomy on ___ for 
the obstruction. You tolerated the operation well with a return 
of bowel function. You tolerated a regular diet and are now 
ready to return home.  

General Discharge Instructions:
Please resume all regular home medications. Please 
take any new medications as prescribed.Please take the 
prescribed analgesic medications as needed.  You may not drive 
or operate heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed,but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 10 

lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.
Incision Care:
*Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 

incision site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water.
Gently pat the area dry.

Your staples will be removed at your followup appointment with 
Dr. ___ on ___ at 2pm.

You received an injection of B12 during this hospitalization. 
You are to continue receiving B12 injections monthly as an 
outpatient.

If you fail to tolerate your diet at home, become febrile, or 
fail to have bowel movements you are to call your physician 
immediately or report to the local emergency deparment. If you 
are having too frequent bowel movements (more than 2 bowel 
movements per day), notify your physician. Take your Lomotil as 
prescribed. Stop taking it if you experience constipation.

Your PICC line will be removed at your follow up appointment on 
___ ___.

Note your heart rate was elevated during this hospitalization, 
you were started on Metoprolol 25 mg BID. You are to continue 
this medication until you follow up with your primary care 
physician and have your medications reconciled. You are stop 
taking this medication if your heart rate measures less than 60 
beats per minute or your blood pressure is less than 100/60  at 
the time of your scheduled dose. 

Your pain medications were changed to Methadone 8 mg orally 
every 8 hours. This is your new pain medication regimen. You are 
to STOP taking any other narcotics while on this regimen. Follow 
up with your primary care physician to have your pain 
medications reconciled.
 
Followup Instructions:
___